US08809372B2
To a solution of 5-(4-fluorophenyl)-1,3,4-thiadiazole-2-carbaldehyde (0.2 g, 0.961 g mmol) in THF (8 mL) was added ethyl magnesium bromide in diethyl ether (3.0 M; 0.96 mL, 2.88 mmol) at 0° C., the reaction mixture was allowed to warm to room temperature and the mixture then stirred for 2 h. The reaction mixture was quenched with saturated ammonium chloride solution (15 mL) and water (15 mL), extracted with ethyl acetate (100 mL), dried over sodium sulfate and concentrated under reduced pressure to afford 1-(5-(4-fluorophenyl)-1,3,4-thiadiazol-2-yl)propan-1-ol as yellow solid (0.1 g, 45% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.0-8.03 (m, 1H), 7.39-7.35 (m, 2H), 6.36 (d, 1H), 4.92-4.89 (m, 1H), 1.89-1.78 (m, 2H), 0.95 (t, 3H); LC-MS m/z calculated for [M+H]+ 239.06, found 239.1.

reactant | 5-(4-fluorophenyl)-1,3,4-thiadiazole-2-carbaldehyde | 0.2 g | FC1=CC=C(C=C1)C1=NN=C(S1)C=O | C9H5FN2OS
reactant | ethyl magnesium bromide | C(C)[Mg]Br
reactant | diethyl ether | 2.88 mmol, 3.0 M, 0.96 mL | C(C)OCC | C4H10O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 1-(5-(4-fluorophenyl)-1,3,4-thiadiazol-2-yl)propan-1-ol | 0.1 g, 45% yield | FC1=CC=C(C=C1)C1=NN=C(S1)C(CC)O | C11H11FN2OS
